US08030334B2
5-(5-Cyano-2-pyridin-3-yl-indole-1-carbonyl)-2-methyl-benzoic acid tert-butyl ester is dissolved in trifluoroacetic acid (3 mL), and stirred at room temperature for 1 h. After removing the solvent, the residue is purified by HPLC with an X-bridge Phenyl using acetonitrile-0.1% trifluoroacetic acid as an eluent to yield 5-(5-cyano-2-pyridin-3-yl-indole-1-carbonyl)-2-methyl-benzoic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm (TFA salt) 2.59 (s, 3H), 7.32 (s, 1H), 7.39-7.44 (m, 2H), 7.71-7.75 (m, 1H), 7.76-7.79 (m, 1H), 7.81 (dd, J=7.8, 2.0 Hz, 1H), 7.92 (dt, J=8.0, 1.8 Hz, 1H), 8.11 (d, J=2.0 Hz, 1H), 8.38 (d, J=1.5 Hz, 1H), 8.52 (dd, J=5.0, 1.5 Hz, 1H), 8.74 (d, J=2.0 Hz, 1H). HRMS (ESI) m/z 382.1202 [(M+H)+ Calcd for C23H16N3O3: 382.1192].

reactant | 5-(5-Cyano-2-pyridin-3-yl-indole-1-carbonyl)-2-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C=CC(=C1)C(=O)N1C(=CC2=CC(=CC=C12)C#N)C=1C=NC=CC1)C)=O | C27H23N3O3
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(5-cyano-2-pyridin-3-yl-indole-1-carbonyl)-2-methyl-benzoic acid | C(#N)C=1C=C2C=C(N(C2=CC1)C(=O)C=1C=CC(=C(C(=O)O)C1)C)C=1C=NC=CC1 | C23H15N3O3
